US07582629B2
Ethyl 5-[(2-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]-3-methyl-1-benzothiophene-2-carboxylate
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and ethyl 5-amino-3-methyl-1-benzothiophene-2-carboxylate in a similar manner as described for e.g. Examples 6-9, 22-25, 28 and 32-35. 1H NMR (400 MHz, d-THF): δ 8.85 (bs, 1H), 7.61 (d, 1H), 7.19 (dd, 1H), 7.17-7.13 (m, 2H), 7.09-7.01 (m, 3H), 6.97-6.95 (m, 1H), 4.35-4.28 (m, 2H), 3.76 (t, 2H), 2.34 (s, 3H), 1.89-1.80 (m, 2H), 1.54-1.44 (m, 2H), 1.35 (t, 3H), 1.01 (t, 3H); Mass Spectrum: M−H+ 498.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | ethyl 5-amino-3-methyl-1-benzothiophene-2-carboxylate | NC=1C=CC2=C(C(=C(S2)C(=O)OCC)C)C1 | C12H13NO2S
product | Ethyl 5-[(2-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]-3-methyl-1-benzothiophene-2-carboxylate | C(CCC)N1S(C(=C(C1=O)NC=1C=CC2=C(C(=C(S2)C(=O)OCC)C)C1)C1=CC=CC=C1)(=O)=O | C25H26N2O5S2
